US06413960B1
Step 1: Preparation of 2′-fluoro-4′-methoxyacetophenone.
Aluminum chloride 30.0 g, 0.6 mol) and chloroform (750 mL) were placed in a 2 L three-necked round bottom flask fitted with a mechanical stirrer and cooled by means of an ice bath. To the stirred solution acetyl chloride (51.0 g, 0.65 mol) was added dropwise, maintaining the temperature between 5-10° C. The mixture was stirred for 10 minutes at 5° C. before the dropwise addition at 5-10° C. of 3-fluoroanisole (63.6 g, 0.5 mol). The mixture was stirred at 0-10° C. for 1 hour and poured into ice (1 L). The resultant layers were separated and the aqueous layer was extracted with dichloromethane (2×250 mL) The combined organic layers were washed with water (2×150 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo to a volume of 300 mL. Hexanes were added and a white solid formed which was isolated by filtration and air dried. This material was recrystallized from a mixture of dichloromethane and hexanes to afford (77.2 g, 92%) of material suitable for use in the next step: mp 92-94° C.; 1H NMR (DMSO-d6) 7.8 (m, 2H), 7.3 (t, 1H), 3.9 (s, 3H), 2.5 (s, 3H).

reactant | Aluminum chloride | 0.6 mol, 30.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.65 mol, 51.0 g | C(C)(=O)Cl | C2H3ClO
reactant | 3-fluoroanisole | 0.5 mol, 63.6 g | FC=1C=C(C=CC1)OC | C7H7FO
solvent | chloroform | 750 mL | C(Cl)(Cl)Cl | CHCl3
product | 2′-fluoro-4′-methoxyacetophenone | 77.2 g, 92% | FC1=C(C=CC(=C1)OC)C(C)=O | C9H9FO2
